Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
left leg wound swelling and erythema 
 
Major Surgical or Invasive Procedure:
___: 
1. Incision and drainage left proximal tibia infection.
2. Removal of antibiotic spacer.
3. Placement of new antibiotic spacer.

___
1. Washout and debridement, left proximal tibia fracture.
2. Insertion of antibiotic cement spacer.

 
History of Present Illness:
___ year old man with a history of stage IV-V CKD, NSCLC s/p 
chemo/radiation) and CAD s/p PCI, ORIF for left tibial plateau 
fracture ___ has been complicated by wound dehiscence 
and infecitons. He was seen in ___ clinic today and instructed 
to come into ER with concern for wound infection and need for 
washout. He reports he has been asymptomatic and denies any new 
pain, drainage from wound site, fevers, chills, n/v. He has been 
taking pain meds and ABX as directed.  

He was originally admitted ___ to ___ for ORIF of the 
left tibial plateau fracture and associated LLE compartment s/p 
left medial fasciotomy ___. Hospital course was complicated 
by HCAP with 8 days of vancomycin and cefepime, nephrogenic DI 
due to chronic lithium treatment. He was discharged to rehab due 
to deconditioning.  

He was then admitted again ___ to ___ for concern for 
worsening surgical site infection. Ortho evaluation of the wound 
during this admission was actually stable, and previous 
management was continued (dry dressing changes daily), TTWB in 
___, leaving splint in place, continuing subQ heparin until 
___. During this admission he had acute kidney injury due to 
urinary obstruction/retention in post-operative state with 
immobility and medication side-effects. On ___, there was 
another concern about surgical site infection and patient had a 
washout and repair of hardware on ___, and flap repair with 
grafts from the left gastrocnemius and lateral thigh on ___ 
performed by orthopedics and plastic surgery.  

On ___, patient presented for outpatient f/u. Orthopedic 
surgery evaluated his wound and thought it looked fine. However, 
plastic surgery evaluated the wound and thought it was infected. 
 

In the ED, initial vitals were: T98, HR 107, BP 137/63, RR 18, 
98%RA  
Patient was given morphine, Zofran, and ortho was consulted for 
I&D. Ortho recommended taking to OR on ___ for I&D.  
 
On the floor, patient reported that he is in his usual state of 
health with only mild increased pain at the surgical site, and 
no symptoms of systemic infection such as fevers, chills, 
headache, fatigue, nausea, dyspnea, poor appetite.  

 
Past Medical History:
___ Left knee-spanning ex-fix, compartment releases  
___ I&D, ORIF Left lateral tibial plateau fracture  
___ I&D, Left medial leg wound closure (___) CAD  
- s/p cardiac catheterization in ___ with PCI to the RCA.  
Last cardiac catheterization in ___, which revealed no flow  

limiting disease, but the distal LAD was found to be diffusely  
diseased.  
-___ s/p chemo/XRT  
-Hyperlipidemia  
-Bipolar disorder, seen by psychiatrist every 4 months at the ___ 
 
-Tremor  
-Parkinsonism  
-Impaired glucose tolerance  
-Cluster headaches  
-Chronic renal failure, baseline creatinine 2.5-3.6, seen by Dr. 
___  
-___
 
Social History:
___
Family History:
Mother died of MI @ ___, father died of MI @ ___.  
 
Physical Exam:
ON ADMISSION: 
=============
 Vital Signs: 99.2 BP 154/82, P ___, RR 18 99% RA  
 GENERAL: awake, alert and fully oriented. Conversant, in NAD.  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,  

 MMM  
 NECK: nontender supple neck, no LAD, no JVD  
 CARDIAC: tachycardic, no murmurs, gallops, or rubs  
 LUNG: Coarse breath sounds anteriorly, but no rales, wheezing,  

 or rhonchi  
 ABDOMEN: non-distended, +BS, nontender in all quadrants, no  
 rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing or edema, moving all 4  
 extremities with purpose. Left lower extremity with  
 post-surgical changes on the lateral aspect of the lower leg,  
 including scar extending from knee to upper ankle. Along the  
 course of the proximal aspect of this scar there is one 4in x 3 
in dehisced surgical ulceration with weepy drainage.  
 There is yellow granulation tissue at these sites of skin  
 breakdown, but no purulent discharge.  
 Lower L lateral leg has a well-healed surgical wound with 
sutures in place  
 PULSES: 2+ DP pulses bilaterally  
 SKIN: warm and well perfused.  

ON DISCHARGE: 
==============
Vitals: 98.2 ___ 18 100%RA
General: Alert, interactive  
HEENT: Sclera anicteric, clear oropharynx. NG tube in place 
Lungs: coarse breath sounds, normal respiratory effort
Abdomen: soft/non distended/NTTP
CV: Regular rate and rhythm, no murmurs, rubs, gallops  
Ext: LLE wrapped with ACE. Trace edema appreciated in left foot, 
warm to touch, wiggling toes and 2+ palpable DP pulses, 
extremities well perfused. 
 
Pertinent Results:
ON ADMISSION: 
==============
___ 04:50PM BLOOD WBC-8.0 RBC-2.81* Hgb-8.2* Hct-27.1* 
MCV-96 MCH-29.2 MCHC-30.3* RDW-15.5 RDWSD-54.6* Plt ___
___ 04:50PM BLOOD Neuts-71.2* Lymphs-14.8* Monos-11.4 
Eos-1.4 Baso-0.8 Im ___ AbsNeut-5.66 AbsLymp-1.18* 
AbsMono-0.91* AbsEos-0.11 AbsBaso-0.06
___ 04:50PM BLOOD Plt ___
___ 05:51PM BLOOD ___ PTT-52.8* ___
___ 04:50PM BLOOD Glucose-83 UreaN-41* Creat-3.2* Na-134 
K-5.0 Cl-107 HCO3-15* AnGap-17
___ 04:50PM BLOOD Albumin-2.4*
___ 06:00PM BLOOD Lactate-1.6

IMAGING: 
========
LEFT TIB/FIB X RAY ___:
In comparison to study of ___, there is little 
change in the 
appearance of the medial fixation plate about a fracture of the 
proximal 
tibia.  No hardware-related complication.  The oblique fracture 
line is still 
seen. 

XRAY ___:
Overall stable appearance of the chest with volume loss 
involving the right hemi thorax and right hilar opacity.  No 
focal consolidation identified to suggest infectious process. 

CHEST X RAY ___: 
Since ___, new NG tube is seen coiled in the upper 
esophagus.  Small right pleural effusion is identified.  Again 
seen is the known right perihilar radiation fibrosis, better 
assessed on prior CT chest.  A right PICC line tip terminates in 
the low SVC.  The heart size is unchanged. Aortic calcifications 
are noted.  No pneumothorax. 
 
NASOGASTRIC TUBE PLACEMENT ___
Successful placement of ___ feeding 
tube, 
terminating within the third portion of the duodenum.  The tube 
is ready to use. 

LEFT TIB/FIB XRAY ___:
The patient is status post revision surgery with exchange of the 
previously placed antibiotic spacer device.  A new antibiotic 
impregnated cement spacer is in-situ along the lateral aspect of 
the tibial plateau.  A medial fracture plate transfixes an 
oblique fracture in the proximal tibia.  Ghost tracks related to 
the prior surgery are again seen.  Subtly increased lucency 
along the medial femoral condyle is concerning for infection 
however this is similar in appearance when compared to the prior 
study. 

CXR Portable ___
Right PIC line ends in the upper SVC.  Esophageal feeding tube 
ends in the
distal stomach.  Right juxta hilar mass is smaller and less in 
___.  Small
right pleural effusion persists.  Heart size normal.  Left lung 
clear. 
Thoracic aorta is generally large and tortuous but not focally 
dilated. 
Fullness in the lower paratracheal station of the mediastinum 
could be
adenopathy or venous engorgement, but is unchanged since ___.
 

MICRO: 
========
___ Blood cx X 2 negative
___ 3:18 pm TISSUE      LEFT TIBIA BONE #2. 
   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
   TISSUE (Preliminary):    NO GROWTH. 
   ANAEROBIC CULTURE (Preliminary): 

___ 3:11 pm SWAB      LEFT TIBIA #1. 
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
   WOUND CULTURE (Preliminary):    NO GROWTH. 
   ANAEROBIC CULTURE (Preliminary): ___ 3:18 pm TISSUE      
LEFT TIBIA BONE#1. 
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
     NO MICROORGANISMS SEEN. 
   TISSUE (Preliminary):    NO GROWTH. 
   ANAEROBIC CULTURE (Preliminary): 

___ 3:18 pm TISSUE      LEFT TIBIA BONE #3. 
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
   TISSUE (Preliminary):    NO GROWTH. 
   ANAEROBIC CULTURE (Preliminary): 

___: Stool c diff negative

DISCHARGE LABS: 
================
___ 06:26AM BLOOD WBC-7.0 RBC-2.38* Hgb-7.1* Hct-23.7* 
MCV-100* MCH-29.8 MCHC-30.0* RDW-17.2* RDWSD-61.8* Plt ___
___ 06:20AM BLOOD ___ PTT-42.3* ___
___ 06:26AM BLOOD Glucose-104* UreaN-57* Creat-3.0* Na-145 
K-4.8 Cl-114* HCO3-18* AnGap-18
___ 05:55AM BLOOD ALT-0 AST-25 LD(LDH)-246 AlkPhos-153* 
TotBili-0.2
___ 06:26AM BLOOD Calcium-9.8 Phos-4.5 Mg-2.4
___ 06:23AM BLOOD VitB12-955*
___ 05:54AM BLOOD Hapto-265*
___ 04:42AM BLOOD calTIBC-121* Ferritn-626* TRF-93*
___ 06:43AM BLOOD CRP-132.7*
___ 06:20AM BLOOD CRP-66.5*
___ 06:51PM BLOOD Lactate-0.9
___ 06:12AM BLOOD freeCa-1.36*
 
Brief Hospital Course:
___ year old man with a history of stage IV-V CKD, NSCLC s/p 
chemo/radiation) and CAD s/p PCI, complicated course with left 
tibial post-op wound dehiscence, MSSA wound infection and 
concern for non-healing wound s/p I&D on ___, now on 
suppressive IV antibiotics.

ACTIVE ISSUES: 
===============
# Wound infection vs. dehiscence: Initial clinical exam notable 
for weepy but non-exudative surgical site, L tib/fib Xray 
showing little change in the appearance of the medial fixation 
plate w/ no hardware-related complications. He was taken to the 
OR on ___ for incision and drainage, which revealed frank pus 
and further deterioration of soft tissue surrounding surgical 
site. He was briefly put on IV vanc but on ___ resumed 
cefazolin 1g q12h in addition to rifampin per previous ID plan. 
He was taken to the OR on ___ for I&D, removal of wound VAC, 
and evaluation of flap. It was determined at that time his flap 
was dusky and the wound was healing poorly, with little chance 
of source control at that site. At family meeting on ___, the 
family was informed that his left lower leg was not healing as 
expected and could require an AKA. Plastic surgery evaluated the 
patient and, in extended discussion with patient and his family, 
decision was made to proceed with limb preservation therapy as 
possible. Decision was made to continue cefazolin and rifampin 
to complete a 6 week course on ___ then to further evaluate 
the wound and determine further treatment options. 

# Severe malnutrition: pt was found to have malnutrition and was 
started on supplementation per nutrition. On ___, he had a 
nasogastric tube advanced in ___ suite after failed attempt on 
the floor and was started on tube feeds. He was noted to have 
nausea and vomiting; however emesis did not have appearance of 
tube feed residuals. Initially, nepro given but was switched to 
two cal per family request. However, developed hyperkalemia and 
had to be switched back to nepro with resolution of 
hyperkalemia. He was continued on tube feeds until ___ when his 
nasogastric tube became clogged. It was removed and the patient 
refused to have a new tube placed. He was subsequently unable to 
maintain adequate caloric intake, and feeding tube was replaced 
on ___ with the plan to resume tube feeds at rehab. During the 
hospitalization he was started on marinol as an appetite 
stimulant. 

# Nausea management: maintained on Zofran IV and discharged with 
PO zofran. 

# Hypercalcemia: Patient had corrected Ca ___ and fluctuated 
back to normal during the hospital course. PTHrp was within 
normal limits. The most likely cause is hypercalcemia of kidney 
disease in addition to immobilization and resulting bone 
breakdown. Resolved by time of discharge. 

# Anemia: Pt had post-op anemia superimposed on anemia of 
chronic disease and renal disease. He received 1 PRBC for Hgb 
<7.0 this admission. His hemoglobin on discharge was 7.1.

# Coagulopathy: elevated INR, likely due to nutritional 
deficiency/poor appetite. He was given 5 mg IV vitamin K before 
his procedure on ___. INR improved to 1.1 with improved 
nutrition.

# Pain management:  Initially Tylenol, oxycodone ___ Q4H PRN, 
flexeril 5 mg PRN. Oxycodone was stopped as his pain improved 
and that it was making him drowsy and could have possibly been 
contributing to nausea. Was started on tramadol instead. 

CHRONIC ISSUES:
===============
# CKD: Creatinine fluctuated 2.4-3.2 during hospitalization, 
within recent baseline of ~3 and consistent with stage IV CKD.  

#CAD: Continued home aspirin, metop tartrate 25mg BID while 
in-house and switched back to 50mg toprol xl on discharge, and 
statin.  

#Hypertension: Continue home amlodipine, metoprolol

#Bipolar affective disorder: Continue home dose depakote. Pt's 
depakote level noted to be 8 (50-100 WNL).  Dose was changed to  
Valproic Acid ___ mg PO QHS. Of note, pt's family expressed 
strong feelings regarding dose changes, and future changes 
should be done only in collaboration with pt's family.

***Transitional issues***: 
==================
[] OPAT Antimicrobial Regimen and Projected Duration: Cefazolin 
1 gm IV q 12 h and Rifampin 450 mg PO q 12 h, projected end 
date: ___. 
[] Weekly CBC with differential, BUN, Cr, AST, ALT, TB, ALK 
PHOS, ESR/CRP
All lab results should be sent to ___ CLINIC - FAX: 
___. 
[] Depakote: pt was noted to have a Depakote level of 8 (normal 
50-100).  Patient was discharged on valproic Acid ___ mg PO QHS 
.
[] Left knee flap site with poor wound healing.  Please assess 
wound/incision daily for signs of infection and/or further 
breakdown.  Cleanse wound and apply clean, dry dressing daily.  
Patient should wear knee immobilizer to Left knee when OOB (may 
remove when lying in bed for comfort) and should not have any 
ROM to the left knee as it is stressing the incision/wound.  
This will be re-assessed at Dr. ___ surgery follow up 
appointment.
[] recheck CBC on ___. Transfuse 1 unit RBCs if hemoglobin 
less than 7.
[] On day of discharge, patient had CXR to confirm NG placement 
and was found to have a possible consolidation in the left lower 
lobe not seen on prior CXR. However, clinically there was no 
evidence of pneumonia; afebrile, no white count, no cough. 
Should be monitored for any symptoms as outpatient.

FULL CODE - Extended discussions throughout hospitalization with 
pt and family. Pt is FULL CODE.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Divalproex (EXTended Release) 1000 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
7. Rosuvastatin Calcium 10 mg PO QPM 
8. Tamsulosin 0.4 mg PO QHS 
9. Sodium Bicarbonate 650 mg PO BID 
10. CefazoLIN 1 g IV Q8H 
11. Rifampin 450 mg PO Q12H 
12. Lactobacillus acidophilus 1  tab oral daily 
13. Acetaminophen 1000 mg PO Q8H:PRN pain 
14. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
15. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
16. TraZODone 25 mg PO QHS:PRN insomnia 
17. Senna 8.6 mg PO BID:PRN constipation 
18. Vitamin D 400 UNIT PO DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Amlodipine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
5. CefazoLIN 1 g IV Q12H 
tentative end date ___, may need prolonged therapy based on OPAT 
recommendations 
6. Rifampin 450 mg PO Q12H 
tentative end date ___, may need prolonged therapy based on OPAT 
recommendations 
7. Rosuvastatin Calcium 10 mg PO QPM 
8. Senna 8.6 mg PO BID:PRN constipation 
9. Sodium Bicarbonate 650 mg PO BID 
10. TraZODone 25 mg PO QHS:PRN insomnia 
11. Vitamin D 400 UNIT PO DAILY 
12. Dronabinol 2.5 mg PO BID 
13. Multivitamins 1 TAB PO DAILY 
14. TraMADOL (Ultram) 50 mg PO Q12H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth Q12H PRN Disp #*20 
Tablet Refills:*0
15. Lactobacillus acidophilus 1  tab oral daily 
16. Metoprolol Succinate XL 50 mg PO DAILY 
17. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
18. Ondansetron 4 mg PO Q8H:PRN nausea 
19. Tamsulosin 0.4 mg PO QHS 
20. Tube Feeds
Tubefeeding: Nepro Full strength; 
Starting rate: 10 ml/hr; Advance rate by 10 ml q6h Goal rate: 40 
ml/hr
Residual Check: q4h Hold feeding for residual >= : 200 ml
Flush w/ 150 ml water q4h
21. Divalproex (EXTended Release) 1000 mg PO DAILY 
22. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN wheezing 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses: 
Left leg wound poor healing 
Anemia 
Hypercalcemia 
Severe malnutrition 

Secondary diagnoses: 
Coagulopathy 
Chronic kidney disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because your leg wound was not 
healing well. You were taken to the operating room on ___ for 
cleaning out of your wound and repair of your skin flap. There 
was concern that the wound was healing poorly but you were 
started on nutrition through a feeding tube and your wound 
healing improved. 

You were continued on antibiotics cephazolin and rifampin that 
you will need to take until ___. You were evaluated jointly 
by the plastic surgery, orthopedics, infectious disease, and 
medicine. Decision was made to re-evaluate your wound after you 
complete your antibiotic course to determine further treatment. 

It was a pleasure taking care of you and we wish you the best! 

Sincerely,
Your ___ team
 
Followup Instructions:
___